US08222424B2
3-[3-(2-Methyl-pyridin-4-yl)-1H-indole-6-carbonyl]-benzenesulfonamide is prepared from 0.25 g of 5-[3-bromo-1-(tert-butyl-dimethyl-silyl)-1H-indole-6-carbonyl]-N-(tert-butyl-dimethyl-silyl)-benzenesulfonamide according to the procedure described in Example 6 (microwave irradiation at 150° C. for 5 min). MS (m/z): 390 (M−1); Rf 0.19 (90:10:1 methylene chloride/methanol/ammonium hydroxide)

reactant | 5-[3-bromo-1-(tert-butyl-dimethyl-silyl)-1H-indole-6-carbonyl]-N-(tert-butyl-dimethyl-silyl)-benzenesulfonamide | 0.25 g | BrC1=CN(C2=CC(=CC=C12)C(=O)C=1C=CC=C(C1)S(=O)(=O)N[Si](C)(C)C(C)(C)C)[Si](C)(C)C(C)(C)C | C27H39BrN2O3SSi2
reactant | methylene chloride methanol ammonium hydroxide | C(Cl)Cl.CO.[OH-].[NH4+]
product | 3-[3-(2-Methyl-pyridin-4-yl)-1H-indole-6-carbonyl]-benzenesulfonamide | CC1=NC=CC(=C1)C1=CNC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)S(=O)(=O)N | C21H17N3O3S
